Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:8]#[C:9][H:10].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[H:7]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10],-5.66192018304
[H:14].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.4821421615400014
[H:1][O:2][C:3][H:4].[O:5]=[C:6]([H:7])[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10],-2.54109267588
[C:7]([H:8])#[C:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[O:6]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13],-0.863298173908
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[O:10],5.22954870888
[C:3]([H:4])#[C:5][H:6].[O:1]=[O:2]>>[O:1][O:2][C:3]([H:4])=[C:5][H:6],1.15246670254
[H:13].[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]=[C:14]([H:15])[H:16]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16],-4.82264311861
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]#[C:7][H:8].[O:9][H:10]>>[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]=[C:7](\[H:8])[O:9][H:10],-3.2949009082
[C:1]#[C:2][C:5]([H:6])([H:7])[H:8].[O:3][H:4]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[H:8],-4.50760698649
[C:3]([H:4])#[C:5][O:6][H:7].[O:1]=[C:2][C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2](/[C:3]([H:4])=[C:5]/[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-1.72865508637
[H:7].[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6][C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-3.7402436973
[H:1][O:2]/[C:3](=[C:4](/[H:5])[O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])[O:6][C:7]([H:8])[H:9].[H:1][O:2][C:3][C:10]([H:11])([H:12])[H:13],5.35558825342
[O:1]=[C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[H:8])[O:9][H:10]>>[H:10].[O:1]=[C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[H:8])[O:9],4.84387755104
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])=[C:10]([H:11])[H:12].[O:8][H:9]>>[H:1][C:2]=[C:3]([O:4][H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])[H:12],-2.55969356643
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[H:13]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-1.90664641778
[H:1][C:2][H:3].[O:4]=[C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-2.13598984332
[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1].[O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],4.62763009581
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])[H:10].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7][C:11]([H:12])([H:13])[H:14],7.0813948
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14]>>[C:5]([H:6])[H:7].[H:1][C:4]([C:2])([H:3])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14],7.65794811746
[H:1][C:2]([H:3])[O:4]/[C:5]=[C:7](\[H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:6]>>[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])([H:12])[H:13],-4.61079507125
[C:3]([H:4])[C:5]([H:6])=[C:7][H:8].[O:1]=[C:2][C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])=[C:7][H:8])[C:9]([H:10])([H:11])[H:12],-4.722085867480001
[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-3.27026003537
[H:1][C:2][O:3][C:4][C@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]1[O:3][C:4][C@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]1([H:12])[H:13],-4.38059017497
[C:6]#[C:7][C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])=[C:10]([H:11])[H:12],-5.13097004759
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2][O:3][C:4][H:5],6.61225412577
[C:8]([H:9])[H:10].[O:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])[H:10],-7.628597631860001
[H:1][C:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])[O:10][H:11]>>[C:8]([H:9])[O:10][H:11].[H:1][C:2][C:3]([H:4])([H:5])[C:6]=[O:7],0.68288029409
[C:1]=[C:2]([H:3])[H:4].[C:5](\[H:6])([O:7][H:8])=[C:9](/[H:10])[C:11][H:12]>>[C:1][C:2]([H:3])([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11][H:12],-0.30833910112
[H:1][C:2]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[H:3][C:4][H:5]>>[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-3.20460897709
